US04476131
dl-4a,5-Dihydro-7,9-dihydroxy-(2H,3H,4H)-pyrido[1,2-a]quinoline-1,6-dione
A mixture of 26 g. (0.098 mole) 4-[2,3-dihydro-5,7-dihydroxy-(1H)-quinolin-4-one-2-yl]butyric acid and 260 ml. methanesulfonic acid was heated under a nitrogen atmosphere at 140° C. for two hours. The reaction mixture was cooled to room temperature and poured onto 1000 ml. ice. To this was added 4 liters ethyl acetate, 1 liter water, 250 g. sodium chloride and the resulting mixture stirred at room temperature overnight. The layers were separated, the aqueous phase extracted with 4×500 ml. ethyl acetate and the combined organic layers washed with saturated sodium bicarbonate solution until the pH was 7 and no effervescence was observed. The extract was then washed with water (1000 ml.), brine (1000 ml.) and dried (MgSO4). The solvent was evaporated in vacuo, the residue redissolved in a small amount of hot ethyl acetate, diluted with ethyl ether and cooled to 0° C. The precipitated solid was collected by filtration and dried in vacuo to afford 9.4 g. (38.8%) of the title compound, M.P. 259°-268° C. (decomp.). 1H--NMR [(CD3)2SO] ppm (delta): 1.75-3.25 (m, 11H), 6.1 and 6.95 (2H, split doublets, meta aryl). Mass spectrum (m/e): 247 M+.

reactant | 4-[2,3-dihydro-5,7-dihydroxy-(1H)-quinolin-4-one-2-yl]butyric acid | 0.098 mole | OC1=C2C(CC(NC2=CC(=C1)O)CCCC(=O)O)=O | C13H15NO5
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | ethyl acetate | 4 liters | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 1 liter | O | H2O
product | 4a,5-Dihydro-7,9-dihydroxy-(2H,3H,4H)-pyrido[1,2-a]quinoline-1,6-dione | 38.8% | OC1=C2C(CC3N(C2=CC(=C1)O)C(CCC3)=O)=O | C13H13NO4
